US07049318B2
3-Methyl-2-methylsulfanyl-6-pyridin-4-yl-3H-pyrimidin-4-one:
A 2-liter 3-neck round bottom flask equipped with a nitrogen line, mechanical stirrer, and a wet ice bath was stirred a solution of ethyl acetate (58 mL, 600 mmol) and 4-cyanopyridine (62.4 g, 600 mmol) in 600 mL dry dimethylformamide at 0° C. Solid potassium bis(trimethylsilyl)amide (95%, 78.9 g, 660 mmol) added over a course of 5 min via a powder addition funnel. The dark red solution was stirred for 60 min at 0° C. Methylthioisocyanate (43.8 g, 600 mmol) in 20 mL dry dimethylformamide was added to the reaction. After 10 min a precipitate appeared. The reaction was mechanically stirred at 0° C. for 90 min. Iodomethane (37.6 mL, 600 mL) was added over a 2 min period. The precipitate dissolved during the addition followed by a new heavy precipitate. The mechanical stirrer was removed and the flask was swirled by hand. The solid was collected by filtration then washed with water, 100 mL cold ethanol, and 100 mL diethylether. The product was air dried for 3 days. M+1=234. NMR (CDCl3) s (3H; 2.7 ppm), s (3H; 3.6 ppm), s (1H; 6.7 ppm), d (2H; 7.8 ppm), d (2H; 8.7 ppm).

reactant | ethyl acetate | 600 mmol, 58 mL | C(C)(=O)OCC | C4H8O2
reactant | 4-cyanopyridine | 600 mmol, 62.4 g | C(#N)C1=CC=NC=C1 | C6H4N2
reactant | potassium bis(trimethylsilyl)amide | 660 mmol, 78.9 g | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | Methylthioisocyanate | 600 mmol, 43.8 g | CSN=C=O | C2H3NOS
reactant | Iodomethane | 37.6 mL | IC | CH3I
reactant | dimethylformamide | 600 mL | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 3-Methyl-2-methylsulfanyl-6-pyridin-4-yl-3H-pyrimidin-4-one | CN1C(=NC(=CC1=O)C1=CC=NC=C1)SC | C11H11N3OS
